US08791123B2
N—((S)-2,3-dihydroxypropyl)-5-((R)-2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a solution of N—(((S)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-5-((R)-2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide (36 mg, 0.077 mmol) in THF (2 mL) was added HCl (3 N aq.) at ambient temperature. The resulting mixture was stirred for 5 hours. The reaction was diluted with EtOAc, washed with saturated NH4Cl and brine, then dried (MgSO4), filtered and concentrated. The crude material was rinsed with ether to yield the final product as white solid (30 mg, 91%). LCMS (apci) m/z=431.1 (M+H).

reactant | N—(((S)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-5-((R)-2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.077 mmol, 36 mg | CC1(OC[C@@H](O1)CNC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C=2C(=NC=C(C2)F)OC)C | C23H27FN6O4
reactant | HCl | 3 N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N—((S)-2,3-dihydroxypropyl)-5-((R)-2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 30 mg, 91% | O[C@@H](CNC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C=2C(=NC=C(C2)F)OC)CO | C20H23FN6O4
